US06410573B1
a) N-(2-(4-Bromophenyl)ethyl)-5-chloro-2-methoxybenzamide
A solution of 8.3 g (44.4 mmol) of 5-chloro-2-methoxybenzoic acid and 7.8 g (48.1 mmol) of carbonylbisimidazole in 200 ml of absolute THF was stirred at room temperature for 2 h. 7.7 ml (50.0 mmol) of 2-(4-bromophenyl)ethylamine and 10 ml of triethylamine were added and the resulting solution was stirred at room temperature for 24 h. The reaction solution was then poured onto water, and the deposited precipitate was filtered off with suction and washed with water. Drying of the precipitate yielded 15.8 g of the title compound in the form of a slightly yellow-colored solid. M.p.: 104-109° C. Rf (silica gel, EA/heptane 2:1)=0.66. MS (ESI): m/z=368/370 (M+H)+.

reactant | 5-chloro-2-methoxybenzoic acid | 44.4 mmol, 8.3 g | ClC=1C=CC(=C(C(=O)O)C1)OC | C8H7ClO3
reactant | carbonylbisimidazole | 48.1 mmol, 7.8 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 2-(4-bromophenyl)ethylamine | 50.0 mmol, 7.7 ml | BrC1=CC=C(C=C1)CCN | C8H10BrN
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | N-(2-(4-Bromophenyl)ethyl)-5-chloro-2-methoxybenzamide | 15.8 g | BrC1=CC=C(C=C1)CCNC(C1=C(C=CC(=C1)Cl)OC)=O | C16H15BrClNO2
